US04970218
5-Benzyloxy-N-(4-pyridinyl)-1H-indol-1-amine
The title compound was prepared from 5-benzyloxy-1H-indol-1-amine (which had been prepared from 5-benzyloxy-1H-indole and hydroxylamine-O-sulfonic acid in substantially the same manner as in Example 25) and 4-chloropyridine hydrochloride in N-methyl-2-pyrrolidinone at 70° C. for 1.5 hours in substantially the same manner as in Example 1, m.p. 143°-145° C.

reactant | 5-benzyloxy-1H-indol-1-amine | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)N | C15H14N2O
reactant | 5-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | hydroxylamine-O-sulfonic acid | NOS(=O)(=O)O | H3NO4S
reactant | 4-chloropyridine hydrochloride | Cl.ClC1=CC=NC=C1
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 5-Benzyloxy-N-(4-pyridinyl)-1H-indol-1-amine | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)NC1=CC=NC=C1 | C20H17N3O
